US07884207B2
Trimethylorthovalerate (1.8 mL, 10.4 mmol) and pyridine hydrochloride (92 mg, 0.8 mmol) were added to a suspension of 4-[(3-aminoquinolin-4-ylamino)methyl]tetrahydropyran-4-ol (8.0 mmol) in toluene (40 mL). The reaction mixture was heated at reflux for 2.5 hours and then cooled to ambient temperature. A precipitate was isolated by filtration and dried to provide 4-[(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydro-2H-pyran-4-ol as a white solid, mp 180-181° C. MS (ESI) m/z 340 (M+H)+; Anal. calcd for C20H25N3O2: C, 70.77; H, 7.42; N, 12.38. Found: C, 70.58; H, 7.53; N, 12.40.

reactant | Trimethylorthovalerate | 10.4 mmol, 1.8 mL | COC(CCCC)(OC)OC | C8H18O3
reactant | pyridine hydrochloride | 0.8 mmol, 92 mg | Cl.N1=CC=CC=C1
reactant | 4-[(3-aminoquinolin-4-ylamino)methyl]tetrahydropyran-4-ol | 8.0 mmol | NC=1C=NC2=CC=CC=C2C1NCC1(CCOCC1)O | C15H19N3O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydro-2H-pyran-4-ol | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCOCC1)O | C20H25N3O2
